US05705527
(a) (2R)-N-(2-Nitrooxyethyl)-2-tert-butoxycarbonylamino-3-tert-butoxycarbonylthiopropanamide
The procedures of Example 1 were analogously repeated using 322 mg of (2R)-2-tert-butoxycarbonylamino-3-tert-butoxycarbonylthiopropionic acid and 186 mg of 2-nitrooxyethylamine nitrate to give 365 mg of the title compound as a colorless oil.

reactant | (2R)-2-tert-butoxycarbonylamino-3-tert-butoxycarbonylthiopropionic acid | 322 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=S)O)CC(=O)OC(C)(C)C | C13H23NO5S
reactant | 2-nitrooxyethylamine nitrate | 186 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
product | (2R)-N-(2-Nitrooxyethyl)-2-tert-butoxycarbonylamino-3-tert-butoxycarbonylthiopropanamide | 365 mg | [N+](=O)([O-])OCCNC([C@@H](CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=S | C15H27N3O7S
